US04945090
978 mg of 5(-4-aminophenoxy)-4-methoxymethyl-beta-carboline-3-carboxylic acid ethyl ester is suspended in 2 ml of water and 10 ml of a 50% tetrafluoroboric acid. After cooling to 0° C., it is mixed drop by drop with a solution of 224 mg of sodium nitrite in 2 ml of water and stirred at 0° C. for 1/2 hour. Then it is mixed at the same temperature with a 60% hypophosphoric acid and 150 mg of copper(I) oxide, diluted with 10 ml of water and afterwards heated for 1/2 hour on the steam bath. After adjustment of the pH to 8 with soda and addition of ammonia, it is extracted with ethyl acetate. The ethyl acetate phase is evaporated and the residue chromatographed over silica gel with acetone: hexane=1:1 as eluant. 540 mg (57% of theory) of 5-phenoxy-4-methoxymethyl-beta-carboline-3-carboxylic acid ethyl ester with a melting point of 174°-176° C. is obtained.

reactant | 5(-4-aminophenoxy)-4-methoxymethyl-beta-carboline-3-carboxylic acid ethyl ester | 978 mg | C(C)OC(=O)C=1N=CC=2NC3=CC=CC(=C3C2C1COC)OC1=CC=C(C=C1)N | C22H21N3O4
reactant | tetrafluoroboric acid | F[B-](F)(F)F.[H+]
reactant | sodium nitrite | 224 mg | N(=O)[O-].[Na+]
reactant | hypophosphoric acid | P(=O)(O)(O)P(=O)(O)O | H4O6P2
reactant | ammonia | N | H3N
solvent | water | 2 ml | O | H2O
solvent | water | 2 ml | O | H2O
solvent | water | 10 ml | O | H2O
catalyst | copper(I) oxide | 150 mg | [Cu-]=O
product | 5-phenoxy-4-methoxymethyl-beta-carboline-3-carboxylic acid ethyl ester | 540 mg, 57% | C(C)OC(=O)C=1N=CC=2NC3=CC=CC(=C3C2C1COC)OC1=CC=CC=C1 | C22H20N2O4
